US06303600B1
4-Bromo-3,5-dimethylpyridine
By proceeding in a similar manner to the procedure contained in J.Chem.Soc., 1956, page 771 but using 4-nitro-3,5-dimethylpyridine-N-oxide (23.06 g), phosphorous tribromide (111.47 g) in toluene (50 ml) there was prepared the title compound (8 g) as a yellow oil.

reactant | 4-nitro-3,5-dimethylpyridine-N-oxide | 23.06 g | [N+](=O)([O-])C1=C(C=[N+](C=C1C)[O-])C | C7H8N2O3
reactant | phosphorous tribromide | 111.47 g | P(Br)(Br)Br | Br3P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-3,5-dimethylpyridine | 8 g | BrC1=C(C=NC=C1C)C | C7H8BrN
